US06005103
3-[2-Cyclohexyl-1-(cyclohexylthio)ethyl]-4-hydroxy-6-phenyl-2H-pyran-2-one, (±)
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (10 mL), cyclohexylmethyl carboxaldehyde (0.735 g, 5.84 mmol.), cyclohexylmercaptan (1.60 g, 13.8 mmol), piperdine (0.5 mL), acetic acid (0.5 mL). m.p. dec. 220° C.; 1H NMR (400 MHz, DMSO-d6) δ0.86 (m, 2 H), 1.18 (m, 9H), 1.66 (m, 10H), 2.03 (m, 2 H), 2.58 (m, 2 H), 4.25 (m, 1 H), 6.68 (s, 1 H), 7.53 (m, 3 H), 7.75 (m,2H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | cyclohexylmercaptan | 13.8 mmol, 1.60 g | C1(CCCCC1)S | C6H12S
reactant | piperdine | 0.5 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | 3-[2-Cyclohexyl-1-(cyclohexylthio)ethyl]-4-hydroxy-6-phenyl-2H-pyran-2-one | C1(CCCCC1)CC(SC1CCCCC1)C=1C(OC(=CC1O)C1=CC=CC=C1)=O | C25H32O3S
